US08076345B2
C) 5-(Azidomethyl)-2-methylpyrimidine
A solution of (2-methylpyrimidin-5-yl)methanol (0.82 g, 6.6 mmol) in toluene (30 mL) and methylene chloride (40 mL) at 0° C. was treated with diphenylphosphonic azide (2.8 mL, 13 mmol) followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (2.0 mL, 13 mmol) and stirred at 0° C. for 2 h. After being further stirred at rt for 16 h, the reaction mixture was diluted with water (50 mL) and methylene chloride (50 mL). The organic layer was separated and washed with brine, dried (Mg2SO4), filtered, and concentration. The residue was purified by silica gel column to yield a colorless oil.

reactant | (2-methylpyrimidin-5-yl)methanol | 6.6 mmol, 0.82 g | CC1=NC=C(C=N1)CO | C6H8N2O
reactant | diphenylphosphonic azide | 13 mmol, 2.8 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 13 mmol, 2.0 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(Azidomethyl)-2-methylpyrimidine | N(=[N+]=[N-])CC=1C=NC(=NC1)C | C6H7N5
